US06660744B1
A mixture of (4-bromophenyl)(phenyl)methanone O-methyloxime (Intermediate AQ) (2.41 g, 0.0083 mol), diboron pinacol ester (2.53 g, 0.010 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.203 g, 0.00025 mol) and potassium acetate (2.44 g, 0.025 mol) in N,N-dimethylformamide (65 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (50 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (2:98) as mobile phase to yield phenyl-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone O-methyloxime (1.9 g, 0.0056 mol): 1H NMR (DMSO-d6, 400 MHz) 7.76 (d, 1H), 7.67 (d, 1H), 7.41 (m, 5H), 7.26 (d, 2H), 3.88 (s, 3H)1.30 (s, 12H); TLC (ethyl acetate/heptane 1:9) Rf 0.27.

reactant | (4-bromophenyl)(phenyl)methanone O-methyloxime | 0.0083 mol, 2.41 g | CON=C(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C14H12BrNO
reactant | diboron pinacol ester | 0.010 mol, 2.53 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00025 mol, 0.203 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.025 mol, 2.44 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 65 mL | CN(C=O)C | C3H7NO
product | phenyl-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone O-methyloxime | 0.0056 mol, 1.9 g | CON=C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C20H24BNO3
